US07897792B2
Dimethylcarbamic acid 3-{3-(aminosulfonyl)aminobenzyl}-6-chloro-4-fluoromethyl-2-oxo-2H-1-benzopyran-7-yl ester
Trifluoroacetic acid (0.1 mL) was added to a solution of dimethylcarbamic acid 3-{3-((tert-butoxycarbonyloxy)aminosulfonyl)aminobenzyl}-6-chloro-4-fluoromethyl-2-oxo-2H-1-benzopyran-7-yl ester (compound 1j-1-3-1F-other) (23 mg, 0.039 mmol) in anhydrous dichlromethane (1.0 mL), and the mixture was stirred at room temperature for 3 hours. The reaction mixture was then poured into saturated sodium hydrogen carbonate and extracted with ethyl acetate. The organic extract was washed with saturated saline and dried over magnesium sulfate. A crude solid was then obtained by vacuum concentration, and purified by preparative TLC (ethyl acetate:hexane=1:1) to yield the title compound (19 mg, 100%) as a pale yellow powder.

reactant | Trifluoroacetic acid | 0.1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | dimethylcarbamic acid 3-{3-((tert-butoxycarbonyloxy)aminosulfonyl)aminobenzyl}-6-chloro-4-fluoromethyl-2-oxo-2H-1-benzopyran-7-yl ester | 0.039 mmol, 23 mg | C(C)(C)(C)OC(=O)ONS(=O)(=O)NC=1C=C(CC=2C(OC3=C(C2CF)C=C(C(=C3)OC(N(C)C)=O)Cl)=O)C=CC1 | C25H27ClFN3O9S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | Dimethylcarbamic acid 3-{3-(aminosulfonyl)aminobenzyl}-6-chloro-4-fluoromethyl-2-oxo-2H-1-benzopyran-7-yl ester | 19 mg, 100% | NS(=O)(=O)NC=1C=C(CC=2C(OC3=C(C2CF)C=C(C(=C3)OC(N(C)C)=O)Cl)=O)C=CC1 | C20H19ClFN3O6S
